US08017779B2
7-Bromo-4-chloro-3-nitroquinoline (40 g) was dissolved in dichloromethane (1.4 L) and triethylamine (23.3 mL). 3-Isopropoxypropylamine (19.3 mL) was added dropwise. After 48 hours, the reaction mixture washed successively with water and saturated aqueous sodium chloride. The organic fraction was dried over anhydrous sodium sulfate, filtered and concentrated under reduced pressure. (7-Bromo-3-nitroquinolin-4-yl)-(3-isopropoxypropyl)amine was isolated as a tan solid (51.2 g).

reactant | 7-Bromo-4-chloro-3-nitroquinoline | 40 g | BrC1=CC=C2C(=C(C=NC2=C1)[N+](=O)[O-])Cl | C9H4BrClN2O2
reactant | 3-Isopropoxypropylamine | 19.3 mL | C(C)(C)OCCCN | C6H15NO
solvent | dichloromethane | 1.4 L | ClCCl | CH2Cl2
solvent | triethylamine | 23.3 mL | C(C)N(CC)CC | C6H15N
product | (7-Bromo-3-nitroquinolin-4-yl)-(3-isopropoxypropyl)amine | BrC1=CC=C2C(=C(C=NC2=C1)[N+](=O)[O-])NCCCOC(C)C | C15H18BrN3O3
